US07425634B2
(44b) (2-(fluoromethyl)-1,3-dioxan-2-yl)methyl benzoate
To a toluene (100 ml) solution of (2-(hydroxymethyl)-1,3-dioxan-2-yl)methyl benzoate (4.76 g, 18.8 mmol), 1,8-diazabicyclo[5.4.0]unedec-7-ene (8.43 ml, 56.4 mmol) was added, cooled on ice and nonafluoro-1-butanesulfonyl chloride (5.06 ml, 28.2 mmol) was added. The mixture was stirred under ice-cool for 15 minutes, and at 40° C. for 20 hours, and further stirred at room temperature for 8 days. The reaction mixture was extracted by adding water and ethyl acetate. The organic layer was washed with a saturated saline solution, dried over magnesium sulfate, and filtrated through silica gel, and then, the filtrate was concentrated. The residue was subjected twice to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=4/1) to obtain the title compound (2.22 g, yield: 46.4%).

reactant | (2-(hydroxymethyl)-1,3-dioxan-2-yl)methyl benzoate | 18.8 mmol, 4.76 g | C(C1=CC=CC=C1)(=O)OCC1(OCCCO1)CO | C13H16O5
reactant | nonafluoro-1-butanesulfonyl chloride | 28.2 mmol, 5.06 ml | FC(C(C(S(=O)(=O)Cl)(F)F)(F)F)(C(F)(F)F)F | C4ClF9O2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (2-(fluoromethyl)-1,3-dioxan-2-yl)methyl benzoate | 2.22 g, yield: 46.4% | C(C1=CC=CC=C1)(=O)OCC1(OCCCO1)CF | C13H15FO4
